US07550459B2
4-(3-Chloropropyl)-5,7-difluoro-4H-benzo[1,4]oxazin-3-one
5,7-Difluoro-4H-benzo[1,4]oxazin-3-one (0.24 g, 1.3 mmol), Cs2CO3 (1.08 g, 3.3 mmol), and 1-chloro-3-iodopropane (0.296 g, 1.45 mmol) were mixed according to GP2. Purified by column chromatography (SiO2; heptanes/EtOAc, gradient 0 to 30% EtOAc) to give the title compound (0.17 g, 49%). Rf=0.66 (heptanes/EtOAc 1:1); 1H NMR (CDCl3) d 6.67-6.58 (m, 2H), 4.55 (s, 2H), 4.16-4.10 (m, 2H), 3.59-3.52 (m, 2H), 2.21-2.10 (m, 2H).

reactant | 5,7-Difluoro-4H-benzo[1,4]oxazin-3-one | 1.3 mmol, 0.24 g | FC1=CC(=CC2=C1NC(CO2)=O)F | C8H5F2NO2
reactant | Cs2CO3 | 3.3 mmol, 1.08 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-chloro-3-iodopropane | 1.45 mmol, 0.296 g | ClCCCI | C3H6ClI
product | 4-(3-Chloropropyl)-5,7-difluoro-4H-benzo[1,4]oxazin-3-one | 0.17 g, 49% | ClCCCN1C(COC2=C1C(=CC(=C2)F)F)=O | C11H10ClF2NO2
